US09260429B2
(B) 2-(1-(4-fluorophenethyl)-5-chloro-1H-indol-3-yl)-N-methylethanamine
The title compound was prepared by General Method 3. 1-(4-fluorophenethyl)-1-(4-chlorophenyl)hydrazine (500 mg) was converted into its hydrochloride salt by dissolving in ethyl acetate and treatment of dioxane-HCl. The salt was dissolved in ethanol/water (1/1; 4 mL)) and was heated to 60° C. 4,4-diethoxy-N-methylbutan-1-amine (0.35 g) was added and the temperature was raised to 70-80° C. 28% aqueous HCl (0.24 mL) was added and the heating was continued for 40 min. Additional amount of 4,4-diethoxy-N-methylbutan-1-amine (0.3 g) and % aqueous HCl (0.3 mL) was added and heating was continued for additional 3 h after which the reaction mixture was cooled and stirred at 25° C. for 12 h. The reaction mixture was concentrated under reduced pressure and the residue was purified by silica gel chromatography (eluent EtOAc/EtOH/NH3: 7/3/1) to obtain 600 mg of product.

reactant | 1-(4-fluorophenethyl)-1-(4-chlorophenyl)hydrazine | 500 mg | FC1=CC=C(CCN(N)C2=CC=C(C=C2)Cl)C=C1 | C14H14ClFN2
reactant | dioxane-HCl | Cl.O1CCOCC1
reactant | 4,4-diethoxy-N-methylbutan-1-amine | 0.35 g | C(C)OC(CCCNC)OCC | C9H21NO2
reactant | HCl | 0.24 mL | Cl | ClH
reactant | 4,4-diethoxy-N-methylbutan-1-amine | 0.3 g | C(C)OC(CCCNC)OCC | C9H21NO2
reactant | HCl | 0.3 mL | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol water | 4 mL | C(C)O.O
product | 2-(1-(4-fluorophenethyl)-5-chloro-1H-indol-3-yl)-N-methylethanamine | FC1=CC=C(CCN2C=C(C3=CC(=CC=C23)Cl)CCNC)C=C1 | C19H20ClFN2
